US04298749
1,4-Bis-(methoxycarbonyl)-3-(2',3'-dimethylphenoxy)-5-methyl pyrazole
A mixture of 5.6 g of triethylamine, 13 g of 3-(2',3'-dimethylphenoxy)-5-methyl-4-methoxycarbonyl pyrazole and 100 ml of tetahydrofuran is prepared, and, while stirring and cooling, 4.9 g of methyl chlorocarbonate is dripped in. After stirring for 16 hours, the precipitated hydrochloride is filtered off. The filtrate is concentrated and the residue is recrystallized from ethyl acetate. Melting point: 115° C.

reactant | 3-(2',3'-dimethylphenoxy)-5-methyl-4-methoxycarbonyl pyrazole | 13 g | CC1=C(OC2=NNC(=C2C(=O)OC)C)C=CC=C1C | C14H16N2O3
reactant | methyl chlorocarbonate | 4.9 g | C(OC)(=O)Cl | C2H3ClO2
solvent | triethylamine | 5.6 g | C(C)N(CC)CC | C6H15N
product | 1,4-Bis-(methoxycarbonyl)-3-(2',3'-dimethylphenoxy)-5-methyl pyrazole | COC(=O)N1N=C(C(=C1C)C(=O)OC)OC1=C(C(=CC=C1)C)C | C16H18N2O5
